US07820683B2
(2R)—N-(2-hydroxyethyl)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide
Using the same procedure as in Example 5, methyl (2R)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (250 mg, 0.55 mmol) was reacted with ethanolamine (0.332 ml, 5.5 mmol) to give the title compound as a white solid (164 mg, 62%); NMR Spectrum 1.64 (d, 3H), 3.21 (m, 2H), 3.43 (m, 2H), 4.75 (t, 1H), 5.22 (q, 1H), 5.77 (s, 2H), 6.95 (d, 1H), 7.01 (d, 1H), 7.29 (m, 1H), 7.36 (d, 1H), 7.72 (m, 4H), 8.16 (s, 1H), 8.48 (br t, 1H), 8.53 (m, 3H), 10.73 (br s, 1H); Mass spectrum MH+ 484.

reactant | methyl (2R)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.55 mmol, 250 mg | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)OC)C | C25H22N6O3
reactant | ethanolamine | 5.5 mmol, 0.332 ml | C(O)CN | C2H7NO
product | (2R)—N-(2-hydroxyethyl)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide | 164 mg, 62% | OCCNC([C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1)=O | C26H25N7O3
